US05880147
2-t-Butyl-5-methoxycarbonylaniline
40 g of zinc powder and 8 ml of acetic acid were added to a solution of 22.7 g of methyl 4-t-butyl-3-nitrobenzoate (prepared as described in Preparation 4) in 400 ml of methanol, and the resulting mixture was stirred for 40 minutes. At the end of this time, a further 26.6 g of zinc powder were added (making a total amount of 66.6 g or 1.02 mmol). 20 ml of acetic acid were then added dropwise over a period of 1.5 hours to the mixture, and the resulting mixture was stirred for 2 hours. At the end of this time, the reaction mixture was diluted with a 10:1 by volume mixture of ethyl acetate and hexane, and the diluted mixture was filtered, using a Celite (trade mark) filter aid. The filtrate was concentrated by evaporation under reduced pressure, and the concentrate was dissolved in ethyl acetate. The resulting solution was washed twice with a saturated aqueous solution of ammonium chloride, once with a saturated aqueous solution of sodium hydrogencarbonate and once with water. The solvent was removed by distillation under reduced pressure, and the resulting residue was purified by column chromatography through 150 g of silica gel, using a gradient elution method, with mixtures of hexane and ethyl acetate ranging from 30:1 to 4:1 as the eluent, to give 16.5 g of the title compound as an oily substance, that is an 85% yield based on the starting material used in Preparation 4.

reactant | acetic acid | 8 ml | C(C)(=O)O | C2H4O2
reactant | methyl 4-t-butyl-3-nitrobenzoate | 22.7 g | C(C)(C)(C)C1=C(C=C(C(=O)OC)C=C1)[N+](=O)[O-] | C12H15NO4
reactant | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
solvent | methanol | 400 ml | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | hexane | CCCCCC | C6H14
catalyst | zinc | 40 g | [Zn] | Zn
catalyst | zinc | 26.6 g | [Zn] | Zn
product | 2-t-Butyl-5-methoxycarbonylaniline | 16.5 g, 85% yield | C(C)(C)(C)C1=C(N)C=C(C=C1)C(=O)OC | C12H17NO2
